US08791129B2
62.41 g of tert-butyl 5-iodo-2,3-dioxo-2,3-dihydroindole-1-carboxylate are dissolved in dried THF, and 18.98 ml of 2,3-dihydro-1H-isoindole are added. The mixture is stirred at 25° C. for 30 min, evaporated to dryness in vacuo, and the residue is triturated with petroleum ether, filtration gives 82.3 g of tert-butyl {2-[2-(1,3-dihydroisoindol-2-yl)-2-oxoacetyl]-4-iodophenyl}carbamate (beige solid); LC-MS retention time: 2.63 min;

reactant | tert-butyl 5-iodo-2,3-dioxo-2,3-dihydroindole-1-carboxylate | 62.41 g | IC=1C=C2C(C(N(C2=CC1)C(=O)OC(C)(C)C)=O)=O | C13H12INO4
reactant | 2,3-dihydro-1H-isoindole | 18.98 ml | C1NCC2=CC=CC=C12 | C8H9N
solvent | THF | C1CCOC1 | C4H8O
product | tert-butyl {2-[2-(1,3-dihydroisoindol-2-yl)-2-oxoacetyl]-4-iodophenyl}carbamate | 82.3 g | C1N(CC2=CC=CC=C12)C(C(=O)C1=C(C=CC(=C1)I)NC(OC(C)(C)C)=O)=O | C21H21IN2O4
